.SUBCKT LDO_COMPARATOR CLK VREF VREG OUT VPWR VGND VNB VPB
Xnand1 VREF CLK cc_out_n cc_out VGND VNB VPB VPWR sky130_fd_sc_hvl__nand3_1
Xnand2 VREG CLK cc_out cc_out_n VGND VNB VPB VPWR sky130_fd_sc_hvl__nand3_1
Xinv1 cc_out inv_out VGND VNB VPB VPWR sky130_fd_sc_hvl__inv_1 
Xinv2 cc_out_n inv_out_n VGND VNB VPB VPWR sky130_fd_sc_hvl__inv_1
Xsr1 inv_out sr_out_n OUT VGND VNB VPB VPWR sky130_fd_sc_hvl__nor2_1
Xsr2 inv_out_n OUT sr_out_n VGND VNB VPB VPWR sky130_fd_sc_hvl__nor2_1
.ENDS

