.options nonlin contiuation=gmin
*.options timeint method=trap
.options device temp=25
.options parser model_binning=true

.param mc_mm_switch=0
.param mc_pr_switch=0
*.lib "/home/chenliyu/OpenLane/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
*.lib "/home/chenliyu/OpenLane/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__ind_03_90.model.spice" tt
*.lib "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/cells/ind_03/sky130_fd_pr__ind_03_90.model.spice"
*.include "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/models/r+c/res_typical__cap_typical__lin.spice"
*.include "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/models/r+c/res_typical__cap_typical.spice"
*.include "/n/ludington/y/chenliyu/skywater-pdk/libraries/sky130_fd_pr_ngspice/latest/models/corners/tt.spice"

.param kw = 1
.param pvdd = 1.8

*vdd  supply 0 dc 'pvdd'

.subckt  sky130_fd_pr__ind_03_90 a b ct sub
R31 net27 b r='1e-2'
R26 a net23 r='1e-2'
C24 net35 net27 c='8.337e-15'
C25 net23 net37 c='53.8e-15'
C0 net27 net31 c='53.8e-15'
R1 sub net31 r='21.56'
R13 net23 net35 r='50.11'
R10 sub net37 r='21.56'
R0 net41 net27 r='1.019'
R9 net23 net39 r='1.019'
    L0 ct net41 l=760.5e-12
    L1 net39 ct l=760.5e-12
.ends sky130_fd_pr__ind_03_90

P1 a 0 port=1 
XL1 a 0 0 0 sky130_fd_pr__ind_03_90

.ac dec 10 100 100000Meg
*.ac dec 10 1 10
*.ac dec 1 1000G 10000000000000000000000G
*.ac dec 10 1e22 1e24


.LIN FORMAT=TOUCHSTONE sparcalc=1

.print AC ZR(1,1) ZI(1,1)

.end
